US08067447B2
A mixture of (4-hydroxy-1-phenyl-1H-pyrazolo[3,4-b]pyridin-5-yl)(phenyl)methanone (0.38 g, 1.2 mmol) and phosphorus oxychloride (1.3 mL) was stirred at 110° C. for 1.5 hr. The mixture was cooled, poured onto ice, basified with sodium hydroxide aqueous solution to pH=8, and extracted with ethyl acetate. Combined extracts were dried (Na2SO4) and concentrated. Flash chromatography gave (4-chloro-1-phenyl-1H-pyrazolo[3,4-b]pyridin-5-yl)(phenyl)methanone (0.26 g, 0.79 mmol, 66% yield) as a yellow solid.

reactant | (4-hydroxy-1-phenyl-1H-pyrazolo[3,4-b]pyridin-5-yl)(phenyl)methanone | 1.2 mmol, 0.38 g | OC1=C2C(=NC=C1C(=O)C1=CC=CC=C1)N(N=C2)C2=CC=CC=C2 | C19H13N3O2
reactant | phosphorus oxychloride | 1.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
product | (4-chloro-1-phenyl-1H-pyrazolo[3,4-b]pyridin-5-yl)(phenyl)methanone | 0.79 mmol, 0.26 g, 66% yield | ClC1=C2C(=NC=C1C(=O)C1=CC=CC=C1)N(N=C2)C2=CC=CC=C2 | C19H12ClN3O
